US07605243B2
Pentafluorophenyl 5-oxohexanoate (14):
5-Oxohexanoic acid (2.6 g; 20 mmol) was dissolved in CH2Cl2 (50 mL). N,N-Diisopropylethylamine (10.4 mL, 60 mmol) was added followed by pentafluorophenyl trifluoroacetate (3.61 mL; 21 mmol). The reaction mixture was kept at room temperature for 1 hour and evaporated. The residue was resuspended in EtOAc:Hexanes (1:1) and loaded on a silica gel column (5×20 cm) equilibrated and developed with the same mixture. Fractions containing the product (14) (Rf˜0.7) were pooled and concentrated to give 4.7 g (79%) of yellowish oil after drying in vacuum. 1H NMR (CDCl3) δ 2.05 (m, 2H), 2.18 (s, 3H), 2.61 (t, 2H), 2.74 (t, 2H).

reactant | 5-Oxohexanoic acid | 20 mmol, 2.6 g | O=C(CCCC(=O)O)C | C6H10O3
reactant | N,N-Diisopropylethylamine | 60 mmol, 10.4 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | pentafluorophenyl trifluoroacetate | 21 mmol, 3.61 mL | FC(C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)(F)F | C8F8O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | Pentafluorophenyl 5-oxohexanoate | 4.7 g, 79% | O=C(CCCC(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)C | C12H9F5O3
